US04571396
7-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A solution of 0.81 g (3.0 mmole) of 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.74 g (4.0 mmole) of 2,5-diazabicyclo[2.2.2]octane dihydrochloride [P. A. Sturm et al., J. Med. Chem., 17, 481 (1974)], 1.65 ml (11 mmole) of 1,8-diazabicyclo[5.4.0]undec-7-ene, and 40 ml of acetonitrile was stirred at room temperature for 25 hours and heated under reflux for two hours. The reaction mixture was filtered and the solid was washed with methanol to give 0.68 g of the title compound, mp 255°-257°.

reactant | 1-ethyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.0 mmole, 0.81 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C12H8F3NO3
reactant | 2,5-diazabicyclo[2.2.2]octane dihydrochloride | 4.0 mmole, 0.74 g | Cl.Cl.C12NCC(NC1)CC2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 11 mmole, 1.65 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 7-(2,5-Diazabicyclo[2.2.2]oct-2-yl)-1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.68 g | C12N(CC(NC1)CC2)C2=C(C=C1C(C(=CN(C1=C2F)CC)C(=O)O)=O)F | C18H19F2N3O3
